US07091228B2
To a solution of trans-2-(4-bromobenzoyl)cyclopropanecarboxylic acid (9.43 g, 32.59 mmol) in MeOH (200 mL) was added 2,2-dimethoxypropane (10.18 g, 97.77 mmol) and HCl (4.0 M in dioxane, 4.0 mL). The resulting solution was stirred at 40° C. overnight, and then evaporated to dryness. The resulting residue was purified by flash chromatography (Biotage Flash 40M) using 15 to 25% ethyl acetate in hexanes to afford methyl trans-2-(4-bromobenzoyl)cyclopropanecarboxylate (7.7 g, 83%). 1H NMR (400 MHz, CD2Cl2) δ 1.68 (m, 2H), 2.37 (m, 1H), 3.21 (m, 1H), 3.65 (s, 3H), 7.68 (m, 2H), 7.90 (m, 2H).

reactant | trans-2-(4-bromobenzoyl)cyclopropanecarboxylic acid | 32.59 mmol, 9.43 g | BrC1=CC=C(C(=O)[C@H]2[C@@H](C2)C(=O)O)C=C1 | C11H9BrO3
reactant | 2,2-dimethoxypropane | 97.77 mmol, 10.18 g | COC(C)(C)OC | C5H12O2
reactant | HCl | 4.0 M, 4.0 mL | Cl | ClH
solvent | MeOH | 200 mL | CO | CH4O
product | methyl trans-2-(4-bromobenzoyl)cyclopropanecarboxylate | 7.7 g, 83% | BrC1=CC=C(C(=O)[C@H]2[C@@H](C2)C(=O)OC)C=C1 | C12H11BrO3
